US04122274
7-Phenyl-3-(1H-tetrazol-5-yl)-4H-pyrido[1,2-a]pyrimidin-4-one
In a manner similar to that described for the preparation of 7-n-butyl-3-(1H-tetrazol-5-yl)-4H-pyrido[1,2-a]pyrimidin-4-one in Example 7, the title compound (m.p. 308°-309° decomp) was prepared in 31% yield from ethyl 2-cyano-3-(5-phenyl-2-pyridylamino)acrylate.

reactant | 7-n-butyl-3-(1H-tetrazol-5-yl)-4H-pyrido[1,2-a]pyrimidin-4-one | C(CCC)C=1C=CC=2N(C(C(=CN2)C2=NN=NN2)=O)C1 | C13H14N6O
reactant | ethyl 2-cyano-3-(5-phenyl-2-pyridylamino)acrylate | C(#N)C(C(=O)OCC)=CNC1=NC=C(C=C1)C1=CC=CC=C1 | C17H15N3O2
product | 7-Phenyl-3-(1H-tetrazol-5-yl)-4H-pyrido[1,2-a]pyrimidin-4-one | 31% yield | C1(=CC=CC=C1)C=1C=CC=2N(C(C(=CN2)C2=NN=NN2)=O)C1 | C15H10N6O
